US06380288B1
Synthesis of N′-(1,3-dimethylbutylidene)benzohydrazide
A four neck flask (2 liters) equipped with a thermometer, a Dean-Stark type reflux condenser and a stirrer was charged with 68.0 g (0.5 mol) of benzohydrazide and 600 ml of methyl isobutyl ketone and then heated under reflux for 5 hours. The reaction liquid was cooled down to 5° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby white crystal was obtained.

reactant | benzohydrazide | 0.5 mol, 68.0 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | methyl isobutyl ketone | 600 ml | C(C(C)C)C(=O)C | C6H12O
product | N′-(1,3-dimethylbutylidene)benzohydrazide | CC(CC(C)C)=NNC(C1=CC=CC=C1)=O | C13H18N2O
